US07232805B2
Step. 4. Fmoc-Phe-Lys(MMT) (4)
To a stirred suspension of Fmoc-Phe-OSu (2.0702 g, 4.2728 mmol, 1.0 eq) and Lys(MMT) (1.7995 g, 4.2995 mmol, 1.01 eq) in DMF (30 ml) was added DIEA (1.5 ml, 8.6112 mmol, 2.02 eq). The solid dissolved gradually and the solution was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate (100 ml) and pH5 buffer (0.05M phthalic acid, adjusted with 10N KOH to pH 5.0, 200 ml). The aqueous solution was extracted with more ethyl acetate (50 ml×2). The combined organic phase was washed with brine (50 ml×3), dried over MgSO4. After removal of solvent and being dried in vacuo, 3.3014 g (98.1%) of pale-yellow foam was obtained. ES(+)-MS: 516(M-MMT+1), 273(MMT).

reactant | Fmoc-Phe-OSu | 4.2728 mmol, 2.0702 g, 1.0 eq | N([C@@H](CC1=CC=CC=C1)C(=O)ON1C(=O)CCC1=O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C28H24N2O6
reactant | Lys(MMT) | 4.2995 mmol, 1.7995 g, 1.01 eq | N[C@@H](CCCCNC(C1=CC=C(OC)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C26H30N2O3
reactant | DIEA | 8.6112 mmol, 1.5 ml, 2.02 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | Fmoc-Phe-Lys(MMT) | 3.3014 g, 98.1% | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCCNC(C1=CC=C(OC)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C50H49N3O6
